US07321040B2
F Isobutyric acid 2-(3-isopropyl-[1,2,4]triazolo[4,3-a]pyridin-6-yloxy)-benzyl ester
A mixture of {2-(6-hydrazino-pyridin-3-yloxy)-phenyl]-methanol (231 mg, 1 mmol) and isobutyryl chloride (938 μL, 9 mmol) was heated at 105° C. for 3 hours. The reaction was cooled to ambient temperature and quenched with saturated NaHCO3. The aqueous was extracted with ethyl acetate and the organics combined, dried over sodium sulfate, and concentrated in vacuo to an oil. The residue was purified by flash chromatography (eluting with 2% methanol/ethyl acetate) to give the title compound (136 mg, 39% for two steps).

reactant | {2-(6-hydrazino-pyridin-3-yloxy)-phenyl]-methanol | 1 mmol, 231 mg | N(N)C1=CC=C(C=N1)OC1=C(C=CC=C1)CO | C12H13N3O2
reactant | isobutyryl chloride | 9 mmol, 938 μL | C(C(C)C)(=O)Cl | C4H7ClO
product | Isobutyric acid 2-(3-isopropyl-[1,2,4]triazolo[4,3-a]pyridin-6-yloxy)-benzyl ester | 136 mg, 39% | C(C)(C)C1=NN=C2N1C=C(C=C2)OC2=C(COC(C(C)C)=O)C=CC=C2 | C20H23N3O3
